US04324858
In accordance with the procedures described previously, 10 mg of eel cholinesterase (Code ECH, Worthington Biochemical Company, approximately 100 units/mg) is dissolved in 30 ml of the 0.5 M, pH 8.0, "TRITON X-100"-containing 1,4-bis(3-sulfopropyl) piperazine buffer solution described previously. Then 30 microliters of the resulting buffered eel cholinesterase solution (i.e. 1.0 unit of the enzyme) were impregnated into 12.7 mm discs of DE81 (diethylaminoethyl ion exchange paper, 3.5 microequivalents per cm2) paper (DEAE) discs, allowed to air-dry for 3 hours at room temperature, placed in uncapped glass vials and allowed to dry for 12 hours at 0.01 mm Hg, at 25° C. in a vacuum desiccator. Indoxyl acetate discs were prepared from the following solution and 9.0 cm Whatman No. 1 filter paper circles.

reactant | 1,4-bis(3-sulfopropyl) piperazine | S(=O)(=O)(O)CCCN1CCN(CC1)CCCS(=O)(=O)O | C10H22N2O6S2
reactant | DEAE | CCN(CC)CCO | C6H15NO
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
product | Indoxyl acetate | CC(=O)OC1=CNC2=CC=CC=C21 | C10H9NO2
